M16 (net048 VREF1 VSS VSS) nmos4
M15 (net07 IB1 net048 VSS) nmos4
M1 (net050 VB3 VSS VSS) nmos4
M3 (net051 VREF1 VSS VSS) nmos4
M4 (VOUT1 VB1 net050 VSS) nmos4
M5 (VOUT2 VB1 net051 VSS) nmos4
M12 (net11 IB1 net039 VSS) nmos4
M6 (net043 VIN2 net11 VSS) nmos4
M11 (net039 VOUT2 VSS VSS) nmos4
M10 (net039 VOUT1 VSS VSS) nmos4
M7 (net045 VIN1 net11 VSS) nmos4
M2 (IB1 IB1 VSS VSS) nmos4
M8 (VOUT1 VB2 net045 VDD) pmos4
M9 (VOUT2 VB2 net043 VDD) pmos4
M13 (net045 net07 VDD VDD) pmos4
M14 (net043 net07 VDD VDD) pmos4
M0 (net07 net07 VDD VDD) pmos4